US20010007903A1
Under nitrogen atmosphere, a solution of aluminium chloride (2.65 g) in anisole (5.7 ml) was added dropwise to a solution of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (3.32 g) in a mixture of anisole (5.7 ml) and nitromethane (22.5 ml) at −24° C. After stirring for 1 hour at the same temperature, the reaction was quenched with 1N hydrochloric acid (22.5 ml). The mixture was poured into a mixture of water and ethyl acetate. The aqueous layer was separated and the organic layer was reextracted with water. The combined aqueous layer was concentrated in vacuo, chromatographed on a HP-20 column (eluent: water-methanol). After the concentration, the resulting precipitate was collected by filtration to afford 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid (133.1 mg)

reactant | aluminium chloride | 2.65 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 3.32 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C67H53N7O5S3
solvent | anisole | 5.7 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | anisole | 5.7 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 22.5 ml | [N+](=O)([O-])C | CH3NO2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid | 133.1 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)O)C1=O)=N/O | C16H15N7O5S3
